US06380235B1
A solution of N-(5-bromo-2-nitro-phenyl)-pyrrolidine-2-carboxylic acid (6 g, 23 mmol) and tin(II) chloride dihydrate (16.5 g, 73 mmol) in ethanol (200 ml), water (30 ml) and concentrated HCl (10 ml) was heated to reflux for 6 hours. After cooling to room temperature, the mixture was diluted with water and was adjusted to pH 9 with 2N aqueous sodium hydroxide solution. After addition of EtOAc, the precipitated tin hydroxide was filtered off. The layers were separated and the organic layer was washed with water, then brine, dried (MgSO4) and evaporated to afford 8-bromo-1,2,3,3a-tetrahydro-5H-pyrrolo(1,2-a)quinoxalin-4-one (3.7 g, 60%), which was used without further purification.

reactant | N-(5-bromo-2-nitro-phenyl)-pyrrolidine-2-carboxylic acid | 23 mmol, 6 g | BrC=1C=CC(=C(C1)N1C(CCC1)C(=O)O)[N+](=O)[O-] | C11H11BrN2O4
reactant | tin(II) chloride dihydrate | 73 mmol, 16.5 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | HCl | 10 ml | Cl | ClH
product | 8-bromo-1,2,3,3a-tetrahydro-5H-pyrrolo(1,2-a)quinoxalin-4-one | 3.7 g, 60% | BrC1=CC=C2NC(C3N(C2=C1)CCC3)=O | C11H11BrN2O
